US08440689B2
A. tert-Butyl (1S,2R)-2-(7-fluoro-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate
A solution of tert-butyl (1S,2R)-2-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate (94 mg, 0.208 mmol) and SELECTFLUOR® (73.7 mg, 0.208 mmol) was stirred at 0° C. for 5 h and at RT for 1 h. The mixture was filtered and the filtrate was purified by preparative HPLC. The fractions were collected and concentrated. The residue was washed with saturated aq NaHCO3 solution, extracted with EtOAc, washed with brine, dried over MgSO4, and evaporated to give the title compound as yellow solid (45 mg, 46.0%). [M+H] calc'd for C25H32FN5O3, 470. found, 470.

reactant | tert-butyl (1S,2R)-2-(3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 0.208 mmol, 94 mg | O=C1NCC2=C1C(=NC(=C2)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)NC=2C=C(C=CC2)C | C25H33N5O3
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
product | tert-Butyl (1S,2R)-2-(7-fluoro-3-oxo-4-(m-tolylamino)-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)cyclohexylcarbamate | 45 mg, 46.0% | FC=1C2=C(C(=NC1N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC=1C=C(C=CC1)C)C(NC2)=O | C25H32FN5O3
